US04775692
To a solution of diisopropylamine (10.7 ml, 76.6 mmol) in anhydrous THF (100 ml) was added dropwise n-butyl lithium (1.61N, 47.6 ml, 76.6 mmol) at -78° C. under argon stream. After stirring the mixture at -78° C. for 30 minutes, ethyl 2-methylnonanoate (9.6028 g, 47.9 mmol) was added dropwise and the mixture was further stirred at -78° C. for 30 minutes. A solution of methyl iodide (5.5 ml, 88.3 mmol) in HMPA (2.5 ml, 14.4 mmol) was dropwise added and the mixture was stirred at -78° C. for 40 minutes, them at 0° C. for 40 minutes, and further at room temperature for 45 minutes. Saturated aqueous ammonium chloride solution (20 ml) was added and the reaction mixture was extracted with ethyl acetate (50 ml×4). The ethyl acetate layers were washed with water (50 ml) and with brine (50 ml), dried over anhydrous sodium sulfate, and concentrated. Distillation gave ethyl 2,2-dimethylnonanoate (9.6627 g, 94.1% yield, b.p.: 53°-65.5° C./0.22 mmHg) as colorless liquid. The structure of this product was confirmed by the following data.

reactant | diisopropylamine | 76.6 mmol, 10.7 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 76.6 mmol, 1.61N, 47.6 ml | C(CCC)[Li]
reactant | ethyl 2-methylnonanoate | 47.9 mmol, 9.6028 g | CC(C(=O)OCC)CCCCCCC | C12H24O2
reactant | methyl iodide | 88.3 mmol, 5.5 ml | CI | CH3I
reactant | HMPA | 14.4 mmol, 2.5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | ethyl 2,2-dimethylnonanoate | 9.6627 g, 94.1% yield | CC(C(=O)OCC)(CCCCCCC)C | C13H26O2
